US08389554B2
Benzyl-[5-(3,4-dimethoxy-phenyl)-imidazo[2,1-b][1,3,4]thiadiazol-2-yl]-amine
An aqueous solution of NaOH (1.00 ml) was added to a mixture of benzyl-(5-iodo-imidazo[2,1-b][1,3,4]thiadiazol-2-yl)-amine (250.00 mg; 0.70 mmol; 1.00 eq.), 3,4-dimethoxyphenylboronic acid (191.59 mg; 1.05 mmol; 1.50 eq.), Pd(PPh3)4 and dimethoxyethane (5.00 ml) under N2. The resulting suspension was heated in the microwave at 90° C. for 30 minutes under N2. The reaction was filtered, washed with dimethoxyethane, water and dried at 40° C. for 18 h. 135.5 mg of the desired product were obtained as a white solid.

reactant | NaOH | 1.00 ml | [OH-].[Na+]
reactant | benzyl-(5-iodo-imidazo[2,1-b][1,3,4]thiadiazol-2-yl)-amine | 0.70 mmol, 250.00 mg, 1.00 eq. | C(C1=CC=CC=C1)NC1=NN2C(S1)=NC=C2I | C11H9IN4S
reactant | 3,4-dimethoxyphenylboronic acid | 1.05 mmol, 191.59 mg, 1.50 eq. | COC=1C=C(C=CC1OC)B(O)O | C8H11BO4
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dimethoxyethane | 5.00 ml | C(OC)COC | C4H10O2
product | Benzyl-[5-(3,4-dimethoxy-phenyl)-imidazo[2,1-b][1,3,4]thiadiazol-2-yl]-amine | 135.5 mg | C(C1=CC=CC=C1)NC1=NN2C(S1)=NC=C2C2=CC(=C(C=C2)OC)OC | C19H18N4O2S
